US07737141B2
Synthesis of {(3R,5R)-3-((R)-1-benzyloxyethyl)-5-(4-chlorophenyl)morpholine
A solution of {(1R,2R)-2-benzyloxy-1-[2-(4-chlorophenyl)-2-oxoethoxymethyl]propyl}carbamic acid t-butyl ester (2.61 g) in a 4 N hydrochloric acid/ethyl acetate solution (40 mL) was stirred at room temperature for 1 hour. Solvent was removed by distillation under reduced pressure, and the resultant product was diluted with methanol (30 ml). While cooling with ice, to the stirring solution was added sodium cyanoborohydride (733 mg), and the resultant solution was stirred overnight at room temperature. Solvent was removed by distillation under reduced pressure. The resultant product was diluted with ethyl acetate. This solution was successively washed with saturated sodium bicarbonate water and brine, and the organic layer was then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography (heptane/ethyl acetate 95/5→3/2), to thereby obtain the titled compound (1.435 g). The physical properties of this crude product were as follows.

reactant | {(1R,2R)-2-benzyloxy-1-[2-(4-chlorophenyl)-2-oxoethoxymethyl]propyl}carbamic acid t-butyl ester | 2.61 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OCC1=CC=CC=C1)COCC(=O)C1=CC=C(C=C1)Cl)=O | C24H30ClNO5
solvent | hydrochloric acid ethyl acetate | 4 N, 40 mL | Cl.C(C)(=O)OCC
product | (3R,5R)-3-((R)-1-benzyloxyethyl)-5-(4-chlorophenyl)morpholine | 1.435 g | C(C1=CC=CC=C1)O[C@H](C)[C@@H]1N[C@@H](COC1)C1=CC=C(C=C1)Cl | C19H22ClNO2
